US07307094B2
N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-phenylbenzoxazole-7-carboxamide was prepared from 2-phenylbenzoxazole-7-carboxylic acid and 3-aminoquinuclidine dihydrochloride using the method outlined in Step C of Example 7. This compound was obtained in 57% yield as a white solid: mp 179-180° C.; 1H NMR (300 MHz, CDCl3) δ 8.21 (dd, J=7.5, 2.1 Hz, 2H), 8.10 (dd, J=7.8, 1.2 Hz, 1H), 7.92 (dd, J=7.8, 1.2 Hz, 1H), 7.61-7.54 (m, 3H), 7.51-7.46 (m, 2H), 4.38-4.33 (m, 1H), 3.63-3.54 (m, 1H), 3.13-3.05 (m, 2H), 2.23 (q, J=3.0 Hz, 1H), 2.00-1.90 (m, 1H), 1.84-1.73 (m, 2H), 1.71-1.64 (m, 1H); MS (ESI) m/z 348[M+H]+.

reactant | 2-phenylbenzoxazole-7-carboxylic acid | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC=C2C(=O)O | C14H9NO3
reactant | 3-aminoquinuclidine dihydrochloride | Cl.Cl.NC1CN2CCC1CC2
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-phenylbenzoxazole-7-carboxamide | 57% yield | N12CC(C(CC1)CC2)NC(=O)C2=CC=CC=1N=C(OC12)C1=CC=CC=C1 | C21H21N3O2
